US08217065B2
C. 4-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-nitro-phenylamine
To a 20 mL microwave vial was added 1.00 g (2.99 mmol) of 4-Chloro -benzoic acid N′-(4-amino-3-nitro-benzoyl)-hydrazide, 12 mL of THF, and 1.9934 g (8.36 mmol) of burgess reagent. The suspension was placed in the microwave at 150° C. for 30 min. To the orange/yellow suspension was added 5 mL of MeOH and the resulting precipitates were collected by filtration and dried to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.31 (d, J=8.97 Hz, 1H) 7.80 (d, J=8.59 Hz, 2H) 8.12-8.19 (m, 2.7 H) 8.25 (d, J=8.59 Hz, 2 H) 8.77 (d, J=2.02 Hz, 1 H). MS (m/z) 317.0 M (+1), tR=1.33, Meth 10

reactant | 4-Chloro -benzoic acid N′-(4-amino-3-nitro-benzoyl)-hydrazide | 2.99 mmol, 1.00 g | NC1=C(C=C(C(=O)NNC(C2=CC=C(C=C2)Cl)=O)C=C1)[N+](=O)[O-] | C14H11ClN4O4
reactant | THF | 12 mL | C1CCOC1 | C4H8O
reactant | burgess reagent | 8.36 mmol, 1.9934 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | MeOH | 5 mL | CO | CH4O
product | 4-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-nitro-phenylamine | ClC1=CC=C(C=C1)C1=NN=C(O1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C14H9ClN4O3
